US09402841B2
Step D: (S)-tert-butyl 3-((4-methyl-6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate
A mixture of 3-(6-chloro-4-methylpyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one (428 mg, 2.032 mmol), (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (457 mg, 2.439 mmol) and sodium hydride (81 mg, 2.032 mmol) in N-methyl-2-pyrrolidinone (7 mL) was heated in a microwave reactor at 140° C. for 30 minutes. After cooling, water was added and the mixture was extracted with EtOAc. The aqueous layer was acidified with 1M HCl aq and extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered, and evaporated in vacuo to give the title compound, which was used without further purification. ESI-MS [M+H-tert-butyl]+ 306.2.

reactant | 3-(6-chloro-4-methylpyridin-2-yl)-1H-1,2,4-triazol-5(4H)-one | 2.032 mmol, 428 mg | ClC1=CC(=CC(=N1)C1=NNC(N1)=O)C | C8H7ClN4O
reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 2.439 mmol, 457 mg | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | sodium hydride | 2.032 mmol, 81 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N-methyl-2-pyrrolidinone | 7 mL | CN1C(CCC1)=O | C5H9NO
product | (S)-tert-butyl 3-((4-methyl-6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate | CC1=CC(=NC(=C1)C1=NNC(N1)=O)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H23N5O4
